US06048885
n-Propanol (2 ml) and ethoxyamine hydrochloride (0.18 g, 1.8 mmol) were added to 2-(2,5-dimethylphenoxymethyl)phenyl 1-methylpyrazol-5-yl ketone (0.20 g, 0.6 mmol), and the mixture was stirred under reflux for 3 days. After completion of the reaction, water (100 ml) was added, and the mixture was extracted with dichloromethane. The dichloromethane layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure, and the residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give isomer A (0.11 g, 50.4%, as colorless crystals) and isomer B (0.10 g, 45.9%, as colorless crystals) of 2-(2,5-dimethylphenoxymethyl)phenyl 1-methylpyrazol-5-yl ketone O-ethyloxime.

reactant | n-Propanol | 2 ml | C(CC)O | C3H8O
reactant | ethoxyamine hydrochloride | 1.8 mmol, 0.18 g | Cl.C(C)ON
reactant | 2-(2,5-dimethylphenoxymethyl)phenyl 1-methylpyrazol-5-yl ketone | 0.6 mmol, 0.20 g | CN1N=CC=C1C(=O)C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C | C20H20N2O2
solvent | water | 100 ml | O | H2O
product | 2-(2,5-dimethylphenoxymethyl)phenyl 1-methylpyrazol-5-yl ketone O-ethyloxime | 0.10 g, 45.9% | C(C)ON=C(C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C)C1=CC=NN1C | C22H25N3O2
